US09399623B2
Step 1. 6-Chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexyl methyl)-amide
The title compound was synthesized according to the procedure described in example 125 using 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclo hexyl methyl)-amide, cesium carbonate, 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclopent-2-enone and tetrakis(triphenyl phosphine)palladium(0). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.83-8.86 (bs, 1H), 8.27-8.29 (m, 1H), 8.22 (d, J=8.8 Hz, 1H), 8.12-8.14 (m, 1H), 7.87 (d, J=9.1 Hz, 1H), 7.12 (s, 1H), 4.72 (s, 1H), 3.42-3.44 (m, 2H), 3.20-3.22 (m, 2H), 2.55-2.57 (m, 2H), 2.07-2.10 (m, 2H), 1.89-2.01 (m, 2H), 1.70-1.77 (m, 4H).

reactant | 2,6-dichloro-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclo hexyl methyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)Cl)F | C17H16Cl2F2N2O2
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-cyclopent-2-enone | CC1(OB(OC1(C)C)C1=CC(CC1)=O)C | C11H17BO3
product | 6-Chloro-2-(3-oxo-cyclopent-1-enyl)-quinoline-5-carboxylic acid (4,4-difluoro-1-hydroxy-cyclohexyl methyl)-amide | FC1(CCC(CC1)(O)CNC(=O)C=1C=2C=CC(=NC2C=CC1Cl)C1=CC(CC1)=O)F | C22H21ClF2N2O3
